US07067540B2
4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N,N-dimethylbenzamide
Preparation of 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}}-N,N-dimethylbenzamide. 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoic acid (2.00 g, 4.76 mmol) was suspended in N,N-dimethylformamide (20 mL). 1-Hydroxybenzotriazole (0.773 g, 5.72 mmol) was added followed by 4-methylmorpholine (1.57 mL, 14.28 mmol), dimethylamine (7.14 mL, 2.0 M in tetrahydrofuran, 14.28 mmol) and then 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.28 g, 6.66 mmol). The resulting mixture was stirred at room temperature for 3 hours at which time the reaction was diluted with H2O (75 mL). The reaction mixture was then extracted with ethyl acetate. The combined organic extracts were washed with saturated NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The resulting solid was washed with ethyl acetate to provide the title compound as a white solid (1.67 g, 78%). 1H NMR (400 MHz, CDCl3) δ 7.53 (app q, J=7.8 Hz, 1H), 7.33 (d, J=8.3 Hz, 2H), 7.16 (d, J=8.3 Hz, 2H), 6.95-6.90 (m, 1H), 6.84 (app dt, J=2.5, 9.4 Hz, 1H), 6.02 (s, 1H), 5.35 (s, 2H), 5.19 (s, 2H), 2.97-2.93 (br m, 6H), 2.26 (s, 3H). ES-HRMS m/z 447.1246 (M+H calcd for C23H22ClF2N2O3 requires 447.1282).

reactant | N,N-dimethylbenzamide | CN(C(C1=CC=CC=C1)=O)C | C9H11NO
reactant | 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoic acid | 4.76 mmol, 2.00 g | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=CC=C(C(=O)O)C=C1)=O | C21H16ClF2NO4
reactant | 1-Hydroxybenzotriazole | 5.72 mmol, 0.773 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 14.28 mmol, 1.57 mL | CN1CCOCC1 | C5H11NO
reactant | dimethylamine | 14.28 mmol, 2.0 M, 7.14 mL | CNC | C2H7N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 6.66 mmol, 1.28 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | H2O | 75 mL | O | H2O
product | 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N,N-dimethylbenzamide | 1.67 g, 78% | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=CC=C(C(=O)N(C)C)C=C1)=O | C23H21ClF2N2O3
